US07115646B2
(1R, 2S)-3-Chloro-1H-indole-6-carboxylic acid {2-[4-(2-dimethylaminomethyl-imidazol-1-yl)-benzoylamino]-indan-1-yl}-amide, trifluoroacetic acid salt
Part A. To a solution of (1R, 2S)-1-amino-indan-2-ol (5.04 g, 33.8 mmol) in THF (50 mL) cooled at 0° C. was added triethylamine (5.65 mL, 40.6 mmol) and (Boc)2O (7.37 g, 33.8 mmol) sequentially. The reaction mixture was stirred overnight at room temperature, quenched with H2O, and extracted with EtOAc (3×50 mL). The organic extracts were combined, washed with water, brine, and dried (MgSO4). Removal of the solvent gave the desired product (1R, 2S)-(2-hydroxy-indan-1-yl)-carbamic acid tert-butyl ester (8.39 g, 99%) as a white solid that was taken to the next step without purification. MS m/z 250 [(M+H)+].

reactant | (1R, 2S)-1-amino-indan-2-ol | 33.8 mmol, 5.04 g | N[C@H]1[C@H](CC2=CC=CC=C12)O | C9H11NO
reactant | triethylamine | 40.6 mmol, 5.65 mL | C(C)N(CC)CC | C6H15N
reactant | (Boc)2O | 33.8 mmol, 7.37 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (1R, 2S)-(2-hydroxy-indan-1-yl)-carbamic acid tert-butyl ester | 8.39 g, 99% | C(C)(C)(C)OC(N[C@H]1[C@H](CC2=CC=CC=C12)O)=O | C14H19NO3
